US06376548B1
Methoxycarbonylaminooxyacetic acid 2,6-dibromo-4-cyano-phenoxycarbonyloxymethyl ester (Compound 4-4 of Table 4)
A solution of carbonic acid iodomethyl ester 2,6-dibromo-4-cyanophenyl ester (0.20 g, 0.43 mmol) in DMF (2 mL) was added sodium methoxycarbonylaminooxyacetate (0.89 g, 0.52 mmol). The mixture was stirred for 16 h. Ether was added to the reaction and washed with water then brine then dried over sodium sulfate, filtered, and concentrated to an oil. Silica gel chromatography (2:1 EtOAc:hexanes) afforded the desired product as a clear oil. 1H-NMR (300 MHz, CDCl3) δ (ppm): 3.80 (s, 3H), 4.57 (s, 2H), 5.99 (s, 2H), 7.90 (s, 2H), 8.02 (bs, 1H). Mp=110-111° C.

reactant | carbonic acid iodomethyl ester 2,6-dibromo-4-cyanophenyl ester | 0.43 mmol, 0.20 g | BrC1=C(C(=CC(=C1)C#N)Br)OC(OCI)=O | C9H4Br2INO3
reactant | sodium methoxycarbonylaminooxyacetate | 0.52 mmol, 0.89 g | COC(=O)NOCC(=O)[O-].[Na+]
reactant | Ether | CCOCC | C4H10O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | Methoxycarbonylaminooxyacetic acid 2,6-dibromo-4-cyano-phenoxycarbonyloxymethyl ester | BrC1=C(OC(=O)OCOC(CONC(=O)OC)=O)C(=CC(=C1)C#N)Br | C13H10Br2N2O8
